US08466296B2
F. Alternative Preparation of [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol
A 5 L four necked flask equipped with a heating mantle, mechanical stirrer, thermocouple, gas inlet adapter and gas outlet adapter is charged with (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane (100.00 g, 0.33 mol), sodium bicarbonate (27.88 g, 0.33 mol), palladium (5% on carbon, 50% water, 15 g) and ethanol (2 L). The mixture is heated to 50° C. The stirring is stopped and the flask is flushed with hydrogen gas (3 L). Stirring is resumed and hydrogen gas is titrated into the solution [7.4 L (0.33 mol) over 130 min]. Heating is discontinued and nitrogen is bubbled through the solution for 20 min. Once the solution is cooled to 25° C., the mixture is filtered through a pad of celite and the filter cake is washed with ethanol (1 L). The resulting solution is concentrated by rotary evaporation removing 2.5 L of ethanol. The solution is transferred to a 5 L four necked flask equipped with a mechanical stirrer, thermocouple and an addition funnel. Water (750 mL) is slowly added to the stirred solution over 30 min, and the solution is stirred for 15 min at which point a precipitate forms. Additional water (1.5 L) is added over 60 min and the suspension is stirred for 48 h. The precipitate is collected by vacuum filtration, and then the filter cake is washed with water and suction dried. The title compound (49.01 g, 70%) is obtained as a tan powder. LCMS (Standard Method): 2.23 min, 212 (M+H)+. 1NMR (300 MHz, CDCl3) δ 7.81-7.76 (m, 2H), 6.96 (d, J=8.5 Hz, 1H), 4.42 (dd, J=2.1, 11.2 Hz, 1H), 4.32-4.18 (m, 2H), 3.98-3.85 (m, 2H), 2.03 (br s, 1H).

reactant | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 0.33 mol, 100.00 g | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
reactant | sodium bicarbonate | 0.33 mol, 27.88 g | C([O-])(O)=O.[Na+]
catalyst | palladium | 15 g | [Pd] | Pd
solvent | ethanol | 2 L | C(C)O | C2H6O
product | [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol | 49.01 g, 70% | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CO)C1 | C9H9NO5
